US08242125B2
149-B. tert-butyl (4-(1H-indol-5-yloxy)pyridin-2-yl)methyl(methyl)carbamate
To a solution of (4-(1H-indol-5-yloxy)pyridin-2-yl)methanol (2 g, 8.32 mmol) in THF (40 mL) is added triethylamine (3.48 ml, 24.97 mmol). The reaction mixture is cooled to 0° C., and methanesulfonyl chloride (0.973 mL, 12.49 mmol) is added dropwise. The reaction is stirred at 0° C. for 45 min at which time the reaction is placed at room temperature and a 40% solution of methylamine in water (7.21 mL, 83 mmol) is added. The reaction is stirred for 30 min and then diluted with brine. The resulting mixture is extracted twice with ethyl acetate. The combined organic layers are dried over anhydrous Na2SO4, filtered, and concentrated. The resulting residue is then dissolved in DCM (50 mL) and di-tert-butyl dicarbonate (2.0 g, 9.15 mmol) is added. The reaction is permitted to stir for approximately 30 minutes at room temperature at which time it is diluted with saturated aqueous NaHCO3. The resulting mixture is extracted twice with DCM. The organic layers are combined dried over anhydrous Na2SO4, filtered, and concentrated. The resulting residue is purified via FCC (0-100% EtOAc/heptane) to give the title compound. MS (ESI) m/z 354.3 (M+1).

reactant | (4-(1H-indol-5-yloxy)pyridin-2-yl)methanol | 8.32 mmol, 2 g | N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)CO | C14H12N2O2
reactant | triethylamine | 24.97 mmol, 3.48 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 12.49 mmol, 0.973 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methylamine | CN | CH5N
reactant | water | 83 mmol, 7.21 mL | O | H2O
reactant | di-tert-butyl dicarbonate | 9.15 mmol, 2.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | tert-butyl (4-(1H-indol-5-yloxy)pyridin-2-yl)methyl(methyl)carbamate | N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)CN(C(OC(C)(C)C)=O)C | C20H23N3O3
